US04435406
21.4 g of 1,5-diacetamino-6-nitro-indoline were dissolved in 2.5 l of methanol, boiled under reflux overnight with 750 ml of 4 N hydrochloric acid in methanol and then evaporated. There were obtained 14.2 g (82.5% of theory) of 5-amino-6-nitro-indoline hydrochloride of melting point 259° C.

reactant | 1,5-diacetamino-6-nitro-indoline | 21.4 g | N(C(=O)C)N1CCC2=CC(=C(C=C12)[N+](=O)[O-])NC(=O)C | C12H14N4O4
reactant | hydrochloric acid | 4 N, 750 ml | Cl | ClH
solvent | methanol | 2.5 l | CO | CH4O
product | 5-amino-6-nitro-indoline hydrochloride | 14.2 g, 82.5% | Cl.NC=1C=C2CCNC2=CC1[N+](=O)[O-] | InChI=1S/C8H9N3O2.ClH/c9-6-3-5-1-2-10-7(5)4-8(6)11(12)13;/h3-4,10H,1-2,9H2;1H
